US08350044B2
To a solution of tert-butyl 2-(5-fluoropyridin-3-yl)-4-iodothiazol-5-ylcarbamate (1.20 g, 2.85 mmol) in DMF (5.7 mL) at 0° C. was added sodium hydride (125 mg, 3.13 mmol, 60% oil suspension) and the mixture was stirred at 0° C. for 10 min. To the yellow mixture was added iodomethane (0.49 g, 3.42 mmol) and the reaction mixture was stirred at 0° C. for 30 min. The ice-water bath was removed and the mixture was stirred for an additional 1 hour. The mixture was acidified with 0.1 N aq. HCl to neutral pH and diluted with ethyl acetate (100 mL) and aqueous sodium bicarbonate (5 mL). The organic phase was separated and rinsed with brine, dried over MgSO4, filtered and concentrated in vacuo to give a yellow residue. This residue was purified on silica gel chromatography (6:4 hexane/ethyl acetate) to give tert-butyl 2-(5-fluoropyridin-3-yl)-4-iodothiazol-5-yl(methyl)carbamate as a pale yellow solid (1.13 g, 91%): mp 70-71° C.; 1H NMR (300 MHz, CDCl3) δ 8.87 (s, 1H), 8.53 (bs, 1H), 7.99 (d, J=0.9 Hz, 1H), 3.23 (s, 3H), 1.45 (s, 9H); ESIMS m/z 436.1 (M+1).

reactant | tert-butyl 2-(5-fluoropyridin-3-yl)-4-iodothiazol-5-ylcarbamate | 2.85 mmol, 1.20 g | FC=1C=C(C=NC1)C=1SC(=C(N1)I)NC(OC(C)(C)C)=O | C13H13FIN3O2S
reactant | sodium hydride | 3.13 mmol, 125 mg | [H-].[Na+]
reactant | iodomethane | 3.42 mmol, 0.49 g | IC | CH3I
solvent | DMF | 5.7 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-(5-fluoropyridin-3-yl)-4-iodothiazol-5-yl(methyl)carbamate | 1.13 g, 91% | FC=1C=C(C=NC1)C=1SC(=C(N1)I)N(C(OC(C)(C)C)=O)C | C14H15FIN3O2S
